US07622593B2
Preparation of 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine (3):
A mixture of [2-(4-nitrophenyl)-1-(S)-thiocarbamoylethyl]-carbamic acid tert-butyl ester, 2, (0.245 g, 0.753 mmol), 1-bromo-2-butanone (0.125 g, 0.828 mmol) in CH3CN (5 mL) is refluxed 3 hours. The reaction mixture is cooled to room temperature and diethyl ether is added to the solution and the precipitate which forms is removed by filtration. The solid is dried under vacuum to afford 0.242 g (90% yield) of the desired product. ESI+MS 278 (M+1).

reactant | [2-(4-nitrophenyl)-1-(S)-thiocarbamoylethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(N)=S)=O | C14H19N3O4S
reactant | 1-bromo-2-butanone | 0.753 mmol, 0.245 g | BrCC(CC)=O | C4H7BrO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 1-(S)-(4-ethylthiazol-2-yl)-2-(4-nitrophenyl)ethyl amine | 0.242 g, 90% yield | C(C)C=1N=C(SC1)[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])N | C13H15N3O2S
